US04962115
To 65 parts of a sulfuric acid solution 96% were added portionwise (slowly) 3.6 parts of cis-4-amino-5-cyano-N-[1-[(4-fluorophenyl)methyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide while cooling in an ice-bath. The reaction mixture was allowed to reach room temperature and stirring was continued for 7 hours at room temperature. The reaction mixture was poured onto crushed ice and the whole was alkalized with ammonium hydroxide. The product was extracted with trichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The most pure fractions were collected and the eluent was evaporated. The residue was further purified by HPLC using a mixture of methylbenzene and ethanol (90:10 by volume) as eluent. The pure fraction was collected and the eluent was evaporated. The residue was boiled in acetonitrile. The product was filtered off and dried, yielding 2.67 parts of cis-4-amino-N1 -[1-[(4-fluorophenyl)methyl]-3-methoxy-4-piperidinyl] -6-methoxy-1,3-benzenedicarboxamide; mp. 243.7° C. (compound 234).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | cis-4-amino-5-cyano-N-[1-[(4-fluorophenyl)methyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)OC)C=C1C#N)OC | C22H25FN4O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | cis-4-amino-N1 -[1-[(4-fluorophenyl)methyl]-3-methoxy-4-piperidinyl] -6-methoxy-1,3-benzenedicarboxamide | NC1=C(C=C(C(=C1)OC)C(=O)N[C@@H]1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)OC)C(=O)N | C22H27FN4O4
